US05616599
44(ii) Diethyl 2-ethoxymethylimidazole-4,5-dicarboxylate
A solution of the diethyl 2-ethoxymethylimidazole-4,5-dicarboxylate hydrochloride thus obtained in ethyl acetate was neutralized by the addition of a saturated aqueous solution of sodium hydrocarbonate. The ethyl acetate layer was separated, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure, to give the title compound as crystals, melting at 71°-74° C.

reactant | diethyl 2-ethoxymethylimidazole-4,5-dicarboxylate hydrochloride | Cl.C(C)OCC=1NC(=C(N1)C(=O)OCC)C(=O)OCC
reactant | sodium hydrocarbonate | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diethyl 2-ethoxymethylimidazole-4,5-dicarboxylate | C(C)OCC=1NC(=C(N1)C(=O)OCC)C(=O)OCC | C12H18N2O5
